US04567184
3-[[3-(1-hydroxyhexyl)phenoxy]methyl]benzamide
A mixture of 3[[3-(1-hydroxyhexyl)phenoxy]methyl]benzonitrile (5.0 g.), 30% hydrogen peroxide (6.6 ml), ethanol (9 ml) and 6N sodium hydroxide (0.7 ml) was stirred at room temperature for one hour. The reaction was then heated to 50° C. for three hours. The solution was neutralized with 5% aqueous hydrochloric acid and extracted with chloroform. The organic extract was dried (MgSO4) and concentrated to a solid. The solid was recrystallized from ethyl acetate giving 3.4 g (63%) yield) of solid, m.p. 97°-98° C.

reactant | 3[[3-(1-hydroxyhexyl)phenoxy]methyl]benzonitrile | 5.0 g | OC(CCCCC)C=1C=C(OCC=2C=C(C#N)C=CC2)C=CC1 | C20H23NO2
reactant | hydrogen peroxide | 6.6 ml | OO | H2O2
reactant | sodium hydroxide | 6N, 0.7 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 9 ml | C(C)O | C2H6O
product | 3-[[3-(1-hydroxyhexyl)phenoxy]methyl]benzamide | OC(CCCCC)C=1C=C(OCC=2C=C(C(=O)N)C=CC2)C=CC1 | C20H25NO3
